US07511041B2
(6) [6-(4,5-Dihydro-1H-imidazol-2-yl)-2-methoxy-3-(methoxymethoxy)phenyl]amine
A solution of 2-amino-3-methoxy-4-(methoxymethoxy)benzonitrile 475 mg (2.28 mmol) and phosphorus pentasulfide 25.4 mg (0.11 mmol) in ethylenediamine 2.75 g was stirred at 120° C. for overnight. The reaction mixture was cooled to room temperature and poured into water. The precipitate was collected and washed with water to give the title compound 293 mg as white solid. Yield 51.1%.

reactant | 2-amino-3-methoxy-4-(methoxymethoxy)benzonitrile | 2.28 mmol, 475 mg | NC1=C(C#N)C=CC(=C1OC)OCOC | C10H12N2O3
reactant | phosphorus pentasulfide | 0.11 mmol, 25.4 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | water | O | H2O
reactant | ethylenediamine | 2.75 g | C(CN)N | C2H8N2
product | [6-(4,5-Dihydro-1H-imidazol-2-yl)-2-methoxy-3-(methoxymethoxy)phenyl]amine | 293 mg, Yield 51.1% | N1C(=NCC1)C1=CC=C(C(=C1N)OC)OCOC | C12H17N3O3
